US07033765B1
In a manner analogous to that above, the reaction of p-aminobenzoic acid (671 mg; 4.90 mmol), 1-(5-bromo-3-oxapentyl) methanethiosulfonate (1.29 g, 4.9 mmol) and CsCl (1.63 g, 5 mmol) yielded 7-(4-aminophenyl)-7-oxo-3,6-dioxaheptyl methanethiosulfonate (230 mg). 1H NMR (500 MHz, (CD3)2SO) δ 7.62 (d, J=8.7 Hz, 2H), 6.55 (d, J=8.7 Hz, 2H), 5.95 (s, br., 2H), 4.27 (t, J=4.7 Hz, 2H), 3.77 (t, J=6.0 Hz, 2H), 3.73 (t, J=4.7 Hz, 2H), 3.50 (s, 3H), 3.39 (t, J=6.0 Hz, 2H).

reactant | p-aminobenzoic acid | 4.90 mmol, 671 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 1-(5-bromo-3-oxapentyl) methanethiosulfonate | 4.9 mmol, 1.29 g | CS(=O)(OCCOCCBr)=S | C5H11BrO3S2
reactant | CsCl | 5 mmol, 1.63 g | [Cl-].[Cs+]
product | 7-(4-aminophenyl)-7-oxo-3,6-dioxaheptyl methanethiosulfonate | 230 mg | CS(=O)(OCCOCCOC(=O)C1=CC=C(C=C1)N)=S | C12H17NO5S2
